US05786473
N-Methyl-3-(1-methyl-4-piperidinyl)-1H-indole-5-ethanesulphonamide, hydrochloride
A mixture of (E)-N-methyl-2-[3-(1,2,3,6-tetrahydro-1-methylpyridinyl)-1H-indol-5-yl]-ethenesulphonamide (10 kg) and 10% palladium oxide on charcoal (10 kg, 50% wet paste, added as two charges) in DMF (50L), water (35L) and 2N hydrochloric acid (15.75L) was hydrogenated at atmospheric pressure over 20.5 h. The catalyst was removed by filtration. The filter cake was washed with water (40L). The filtrate was concentrated in vacuo to approximately 30L and cooled to 18°. Ethyl acetate (70L) was added over 1 h and the resulting suspension cooled to 5° and aged for 1 h. The product was collected by filtration, washed with ethyl acetate (20L) and dried in vacuo at 40°-50° overnight (8.87 kg, 79.0% of theory). A portion (0.2 kg) of the solid was recrystallised from hot IMS/water (4:1) (1L) and obtained as fine, off-white crystals (0.143 kg), 71.7% of theory).

reactant | (E)-N-methyl-2-[3-(1,2,3,6-tetrahydro-1-methylpyridinyl)-1H-indol-5-yl]-ethenesulphonamide | 10 kg | CNS(=O)(=O)\C=C\C=1C=C2C(=CNC2=CC1)C1N(CC=CC1)C | C17H21N3O2S
reactant | hydrochloric acid | 2N, 15.75L | Cl | ClH
solvent | DMF | CN(C)C=O | C3H7NO
solvent | water | O | H2O
catalyst | palladium oxide | [Pd]=O
product | N-Methyl-3-(1-methyl-4-piperidinyl)-1H-indole-5-ethanesulphonamide, hydrochloride | 0.143 kg | Cl.CNS(=O)(=O)CCC=1C=C2C(=CNC2=CC1)C1CCN(CC1)C | InChI=1S/C17H25N3O2S.ClH/c1-18-23(21,22)10-7-13-3-4-17-15(11-13)16(12-19-17)14-5-8-20(2)9-6-14;/h3-4,11-12,14,18-19H,5-10H2,1-2H3;1H
